Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Imuran / Lovenox / Florastor
 
Attending: ___
 
Chief Complaint:
Cold symptoms, elevated WBC in labs and ED referral
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy (___)

 
History of Present Illness:
___ y/o female with history of Crohn's disease most recently well 
controlled on Humira, suffering from ongoing/persistent URI type 
symptoms over the last several weeks, found today to have 
elevated CBC with circulating blasts at clinic appointment, 
referred to the ED.

Patient states that 1 month ago she started feeling unwell after 
Flu shot. Developed non productive cough that has persisted 
since that time as well. Starting ___ weeks she noted bleeding 
from gums and sore throat. The bleeding has worsened and patient 
was concerned symptoms were ___ Humira or Crohn's and was seen 
by Dr. ___ in clinic today when she was noted to have elevated 
WBC
with blasts on smear. Intermittent difficulty with secretions, 
mostly when laying flat. No difficulty breathing, neck pain, 
voice change. Has had intermittent night sweats but this is 
normal for her ___ to Crohn's. Denies fevers, weight loss, 
increased bruising.

In ___ developed URI felt likely Humira suppressing immune 
system because couldn't seem to shake it. Early ___ she got 
the flu shot and got sick with URI like symptoms immediately 
after, but felt related to shot. Travelled to ___ on ___ 
and while there she developed red sore gums but thought this was 
due to new toothbrush. Also noted recurrence of cold-like 
symptoms. Returned to US on ___ and starting that week she 
developed excessive swelling and bleeding of front tooth and 
then developed canker sores in mouth and tongue. She began 
developing more intense URI sx. with worsening cough 
(nonproductive) felt that she was waking up choking on phlegm 
but couldn't get anyting up.

___ connected with Dr. ___ reported trouble swallowing 
and sore throat painful swallowing, she came in to clinic today 
and elevated WBC noted and referred to ED. Notes having had 
chills at home but keeps her house at 50 degrees. She denies 
headaches, visual changes, pain or burning on urination, chest 
pain, back pain, hip pain, leg swelling (has two artificial hips
done in ___. Denies recent rashes. No recent weight changes.

She didn't take her Humira this past ___ as directed by Dr. 
___. She was previously off and on steroids, on Aldactone for 
a while, and tried Remicade and Immuran previously with serious 
allergic reaction to both of these (reports she couldn't move, 
completely shut down immune system, developed severe joint 
pain).

Minor issues with Crohn's recently, non-bloody stool, but feels 
she has mini flares with ___ looser BM (in the past worse flares 
have been up to 20 times per day). Since on Humira for ___ years 
now she has had very few even "mini" flares. Prior to ___ was 
taking balsalazide. 

ED COURSE:
T 98 HR 89 BP 120/75 RR 18 99%RA
Labs with WBC 36, 20% pmns, 35% blasts, Hct 31.5, plts 84, ALT 
87. Reportedly givein one dose of steroids in the ED though this 
is not clearly documented - due to bed limitations, pt was 
essentially seen in triage area and sent directly to floor 
without IV access in order to expedite care.

On arrival to the floor she has no complaints. All other 10 
point ROS neg. except as noted in HPI as above.
 
Past Medical History:
Hip dysplasia requiring bilateral hip replacements ___,
previously on depoprovera since the age of ___ (experimental for
dysplasia); h/o sacroileitis with multiple steroidal injections.
 
Social History:
___
Family History:
Motheres father died of cancer at age ___, mothers mother died at 
age ___ of ovarian cancer (though ovaries had been removed ___ 
years prior to that diagnosis). No family history of blood 
disorders.
 
Physical Exam:
ADMISSION EXAM:
VITAL SIGNS: 99.1 120/72 95 20 100%RA
General: NAD
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or 
axillary adenopathy, no thyromegaly
CV: RR, NL S1S2 no S3S4 MRG
PULM: CTAB
GI: BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS: No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN: No rashes or skin breakdown
NEURO: Oriented x3. Cranial nerves II-XII are within normal 
limits excluding visual acuity which was not assessed, no 
nystagmus; strength is ___ of the proximal and distal upper and 
lower extremities; reflexes are 2+ of the biceps, triceps, 
patellar, and Achilles tendons, toes are down bilaterally; gait
is normal, coordination is intact.

DISCHARGE EXAM:
VS: 99.1 110/68 96 18 99RA
Exam otherwise unchanged
 
Pertinent Results:
ADMISSION LABS:
___ 08:25AM BLOOD WBC-36.6*# RBC-3.10*# Hgb-11.2 Hct-31.5* 
MCV-102*# MCH-36.1*# MCHC-35.6 RDW-15.4 RDWSD-55.4* Plt Ct-84*#
___ 08:25AM BLOOD Neuts-20* Bands-2 Lymphs-12* Monos-29* 
Eos-1 Baso-0 ___ Metas-1* Myelos-0 Blasts-35* NRBC-1* 
Other-0 AbsNeut-8.05* AbsLymp-4.39* AbsMono-10.61* AbsEos-0.37 
AbsBaso-0.00*
___ 08:25AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-NORMAL Macrocy-OCCASIONAL Microcy-NORMAL 
Polychr-OCCASIONAL
___ 08:25AM BLOOD Plt Smr-LOW Plt Ct-84*#
___ 08:51PM BLOOD ___ PTT-32.3 ___
___ 08:51PM BLOOD ___ 09:25PM BLOOD ___ 08:51PM BLOOD QG6PD-PND
___ 08:51PM BLOOD Ret Aut-1.6 Abs Ret-0.048
___ 08:25AM BLOOD UreaN-21* Creat-0.7 Na-135 K-3.2* Cl-99 
HCO3-26 AnGap-13
___ 08:51PM BLOOD Glucose-124* UreaN-16 Creat-0.7 Na-138 
K-3.6 Cl-101 HCO3-22 AnGap-19
___ 08:25AM BLOOD ALT-87* AST-58* AlkPhos-56
___ 08:51PM BLOOD ALT-97* AST-67* LD(LDH)-378* AlkPhos-56 
Amylase-68 TotBili-0.4
___ 08:51PM BLOOD Lipase-24
___ 08:25AM BLOOD TotProt-7.3 Albumin-4.2 Globuln-3.1 
Mg-2.4
___ 08:51PM BLOOD Calcium-9.2 Phos-3.8 Mg-2.2 UricAcd-2.7 
Cholest-108
___ 08:51PM BLOOD D-Dimer-248
___ 08:51PM BLOOD Triglyc-35 HDL-58 CHOL/HD-1.9 LDLcalc-43
___ 08:51PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 08:25AM BLOOD CRP-3.1
___ 03:41PM BLOOD HIV Ab-PND
___ 08:51PM BLOOD HCV Ab-Negative
___ 03:00AM BLOOD CMV VL-PND
___ 07:00PM URINE Color-Straw Appear-Clear Sp ___
___ 07:00PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:00PM URINE RBC-3* WBC-6* Bacteri-FEW Yeast-NONE 
Epi-3 TransE-<1
___ 07:00PM URINE CastHy-1*
___ 07:00PM URINE Mucous-RARE

DISCHARGE LABS:
___ 10:00AM BLOOD WBC-44.2* RBC-2.67* Hgb-9.5* Hct-26.3* 
MCV-99* MCH-35.6*# MCHC-36.1 RDW-15.3 RDWSD-52.4* Plt Ct-75*
___ 10:00AM BLOOD Neuts-22* Bands-0 Lymphs-15* Monos-24* 
Eos-1 Baso-0 ___ Myelos-0 Blasts-38* AbsNeut-9.72* 
AbsLymp-6.63* AbsMono-10.61* AbsEos-0.44 AbsBaso-0.00*
___ 10:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL
___ 10:00AM BLOOD ___ PTT-31.8 ___
___ 10:00AM BLOOD Plt Smr-VERY LOW Plt Ct-75*
___ 03:00AM BLOOD ___ 10:00AM BLOOD ___ 10:00AM BLOOD Glucose-81 UreaN-17 Creat-0.9 Na-141 
K-3.1* Cl-106 HCO3-25 AnGap-13
___ 10:00AM BLOOD LD(LDH)-458*
___ 10:00AM BLOOD Calcium-8.2* Phos-4.4 Mg-2.1 UricAcd-2.3*

MICRO:
___ 9:39 am THROAT CULTURE: R/O Beta Strep Group A 
(Pending)
___ 8:25 am Blood (CMV AB): CMV IgG ANTIBODY (Pending) CMV 
IgM ANTIBODY (Pending)
___ 7:00 pm URINE CULTURE (Pending)
___ 8:25 am Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection.

IMAGING:
___ CXR: No acute intrathoracic process.
___ RUQUS: No biliary ductal dilation.

STUDIES:
___ Echo: The left atrium is normal in size. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Normal pulmonary artery 
systolic pressure.

___ FISH: FISH negative for PML/RARA, t(8;21) and MLL. 
inv(16) FISH and chromosome analysis are in progress.
 
Brief Hospital Course:
___ y/o female with history of Crohn's disease most recently well 
controlled on humira, suffering from ongoing/persistent URI type 
symptoms over the last several weeks, found to have elevated CBC 
with circulating blasts at clinic appointment c/f acute 
leukemia.

# New acute leukemia: Elevated WBC with significant percentage 
of blasts c/f acute leukemia. No family history of blood 
disorder or hematologic malignancy. Coags on arrival not 
suggestive of DIC/APML. BMBx done, core biopsy pending, FISH 
negative for PML/RARA, t(8;21) and MLL; inv(16) FISH and 
chromosome analysis are in progress. Patient received Hydrea and 
allopurinol and central venous access obtained. Echo normal, 
obtained prior to potential 7+3 induction. Tumor lysis labs 
negative. Patient sought second opinion at ___ and transfer was 
accepted.

# URI/sore throat: Low grade temp 99.1, but no true temps, 
hemodynamics stable, not given any abx, CXR also reassuring. Did 
get one dose of steroids in ED, could consider redosing if 
symptoms worsening.

# Crohn's: No significant flares recently since starting Humira, 
but holding this for now (missed ___ dose).

# Transaminitis - ALT elevated to 97. Unclear etiology, no RUQ 
pain, RUQUS negative. TBili 0.4.

TRANSITIONAL ISSUES:
- please provide second opinion for patient, will forward ___ 
results as available
- Code status: Full
- Contact: ___ (mother) ___ or 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Humira (adalimumab) 40 mg/0.8 mL subcutaneous every 2 weeks 
2. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Docusate Sodium 100 mg PO BID  
3.  Hydroxyurea ___ mg PO Q8H  
4.  Morphine Sulfate ___ 7.5 mg PO Q6H:PRN Pain - Mild Duration: 
24 Hours  
5.  Senna 8.6 mg PO DAILY:PRN constipation  
6.  Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush  

7.  TraZODone 25 mg PO QHS:PRN insomnia  
8. HELD- Humira (adalimumab) 40 mg/0.8 mL subcutaneous every 2 
weeks  This medication was held. Do not restart Humira until 
instructed by your oncologist and gastroenterologist.

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
- new acute leukemia
- persistent sore throat
- Crohn's disease
- transaminitis
 
Discharge Condition:
Transfer to ___:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you while you were at ___. You 
came to us because your outpatient gastroenterologist Dr. ___ 
___ an elevated white blood cell count with signs of 
acute leukemia in the setting of ongoing sore throat. This sore 
throat and other symptoms such as cough, sore and bleeding gums, 
and recurrent cold-like symptoms had been bothering you for the 
past several months. In the ___ emergency department you had a 
bone marrow biopsy which was still pending at the time of your 
transfer, but we had sufficient data from your blood tests that 
you had new acute leukemia. You were started on medications to 
reduce the cancer burden and prevent side effects from high 
blood cell turnover, but prior to initiating chemotherapy you 
wished to have a second opinion and requested a transfer to ___ 
___. We were able to coordinate a 
transfer with the assistance of Dr. ___ at ___, 
and you will receive ongoing diagnostics and treatment there.

Thank you for allowing us to participate in your care while 
here!

Best regards,
Your ___ Care Team
 
Followup Instructions:
___